US04816465
At ambient temprature, 3 ml of methane sulfonyl chloride were added slowly to 1.49 g of 5,6,7,8-tetrahydroquinoline-N-oxide with stirring under an inert atmosphere. The mixture was heated for 4 hours at 80° to 82° C., then cooled to 20° C. and poured into 20 ml of a saturated solution of sodium bicarbonate. Then, sodium bicarbonate was added until an alkaline pH was obtained and after extracting with methylene chloride, washing with water, drying the re-united organic solutions and distilling to dryness under reduced pressure, 1.53 g of 8-chloro-5,6,7,8-tetrahydroquinoline were obtained in the form of an oil.

reactant | methane sulfonyl chloride | 3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5,6,7,8-tetrahydroquinoline-N-oxide | 1.49 g | [N+]1(=CC=CC=2CCCCC12)[O-] | C9H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 8-chloro-5,6,7,8-tetrahydroquinoline | 1.53 g | ClC1CCCC=2C=CC=NC12 | C9H10ClN
